US06548495B2
2-Nitro-4-pyrrol-1-yl-phenylamine
The title compound was prepared from 2-nitro-1,4-phenylenediamine (20 g, 131 mmol), 2,5-dimethoxytetrahydrofuran (18.3 mL, 135 mmol) in HOAc (37 mL) at 95° C. for 3 h according to the general procedure F. Obtained as a red solid (13.5 g).

reactant | 2-nitro-1,4-phenylenediamine | 131 mmol, 20 g | [N+](=O)([O-])C1=C(C=CC(=C1)N)N | C6H7N3O2
reactant | 2,5-dimethoxytetrahydrofuran | 135 mmol, 18.3 mL | COC1OC(CC1)OC | C6H12O3
solvent | HOAc | 37 mL | CC(=O)O | C2H4O2
product | 2-Nitro-4-pyrrol-1-yl-phenylamine | [N+](=O)([O-])C1=C(C=CC(=C1)N1C=CC=C1)N | C10H9N3O2
